US06949583B2
A. 3-(4-Allylbenzoyl)-2-butylbenzofuran-5-carboxylic acid
1.7 g of NaOH pellets are added to 8.1 g of methyl 3-(4-allylbenzoyl)-2-butylbenzofuran-5-carboxylate in 40 ml of methanol, 200 ml of dioxane and 40 ml of water. The mixture is stirred at ambient temperature for 24 hours. It is neutralized to pH 7 with concentrated hydrochloric acid and then evaporated. Water is added and the acid is regenerated with concentrated hydrochloric acid. Extraction is carried out three times with ether and the extracts are washed with water and then with an aqueous NaCl solution. They are dried over Na2SO4 and then concentrated.

reactant | NaOH | 1.7 g | [OH-].[Na+]
reactant | methyl 3-(4-allylbenzoyl)-2-butylbenzofuran-5-carboxylate | 8.1 g | C(C=C)C1=CC=C(C(=O)C2=C(OC3=C2C=C(C=C3)C(=O)OC)CCCC)C=C1 | C24H24O4
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 40 ml | O | H2O
product | 3-(4-Allylbenzoyl)-2-butylbenzofuran-5-carboxylic acid | C(C=C)C1=CC=C(C(=O)C2=C(OC3=C2C=C(C=C3)C(=O)O)CCCC)C=C1 | C23H22O4
